US04528375
3-Amino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole
To a stirred suspension of N-[3-(3-piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride (854 mg; 2 mmoles) in 6 mL of DMF under N2 in an ice bath was added SCl2 (206 mg; 2 mmoles) in 2 mL of DMF. The reaction mixture was stirred at ambient temperature and the title compound was produced.

reactant | N-[3-(3-piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride | 2 mmoles, 854 mg | Cl.Cl.Cl.N1(CCCCC1)CC=1C=C(OCCCNC(C(N)=N)=N)C=CC1
reactant | SCl2 | 2 mmoles, 206 mg | S(Cl)Cl | Cl2S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Amino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole | NC1=NSN=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C17H25N5OS
